US05084204
1-(4-Methylphenyl)-2-(6-ethoxy-2-naphthyl)-acetylene
0.112 mol of Br2 is added to 0.112 mol of 1-(4-pentylphenyl)-1-(6-ethoxy-2-naphthyl)ethene in 150 ml of toluene and 100 ml of methanol at about 10°. The reaction mixture is evaporated and the residue is heated at reflux for 4 hours together with 0.4 mol of potassium tert.-butylate and 200 ml of tert.-butanol. After cooling, pouring into water and filtering the product with suction gives, after purification by recrystallization, 1-(4-pentylphenyl)-2-(6-ethoxy-2-naphthyl)-acetylene having M. 110° and C. 157.3°.

reactant | Br2 | 0.112 mol | BrBr | Br2
reactant | 1-(4-pentylphenyl)-1-(6-ethoxy-2-naphthyl)ethene | 0.112 mol | C(CCCC)C1=CC=C(C=C1)C(=C)C1=CC2=CC=C(C=C2C=C1)OCC | C25H28O
reactant | tert.-butanol | 200 ml | C(C)(C)(C)O | C4H10O
reactant | water | O | H2O
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 ml | CO | CH4O
product | 1-(4-Methylphenyl)-2-(6-ethoxy-2-naphthyl)-acetylene | CC1=CC=C(C=C1)C#CC1=CC2=CC=C(C=C2C=C1)OCC | C21H18O
